US07528143B2
2-Chloro-N-(3-methoxyphenyl)-5-methylpyrimidin-4-amine (Intermediate 24)
To a solution of 2-chloro-5-methylpyrimidin-4-amine (320 mg, 2.23 mmol) in 1,4-dioxane (40 mL) was added 1-bromo-3-methoxybenzene (458.5 mg, 2.45 mmol), Cs2CO3 (2.9 g, 8.9 mmol), Pd2(dba)3 (201 mg, 0.22 mmol), and 4,5-bis(diphenylphosphino)-9,9-dimethyxanthene (Xant Phos, 382 mg, 0.66 mmol). The mixture was heated under reflux for 4 h under Ar. The solid was filtered off and the filtrate washed with brine (1×100 mL). The organic solution was separated and dried (Na2SO4). The solvent was removed until 5 mL and hexane (100 mL) was added, the solid was collected by filtration. The crude product, the title intermediate 24 (500 mg, 90%), was used for next reaction without further purification.

reactant | 2-chloro-5-methylpyrimidin-4-amine | 2.23 mmol, 320 mg | ClC1=NC=C(C(=N1)N)C | C5H6ClN3
reactant | 1-bromo-3-methoxybenzene | 2.45 mmol, 458.5 mg | BrC1=CC(=CC=C1)OC | C7H7BrO
reactant | Cs2CO3 | 8.9 mmol, 2.9 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethyxanthene | 0.66 mmol, 382 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.22 mmol, 201 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-Chloro-N-(3-methoxyphenyl)-5-methylpyrimidin-4-amine | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)OC)C | C12H12ClN3O
